US08022062B2
2-Phenyl-acetimidic acid ethyl ester, hydrochloride:
Combine benzyl cyanide (1.0 g, 8.50 mmol), ethanol (0.4 g, 8.50 mmol) and 4N hydrogen chloride in dioxane (8 mL) and stir the reaction mixture at ambient temperature for 17 h. Evaporate the solvent and triturate the residue with diethyl ether to obtain the desired intermediate as a white solid (1.7 g, 100%).

reactant | benzyl cyanide | 8.50 mmol, 1.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | ethanol | 8.50 mmol, 0.4 g | C(C)O | C2H6O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 2-Phenyl-acetimidic acid ethyl ester, hydrochloride | 1.7 g, 100% | Cl.C(C)OC(CC1=CC=CC=C1)=N | InChI=1S/C10H13NO.ClH/c1-2-12-10(11)8-9-6-4-3-5-7-9;/h3-7,11H,2,8H2,1H3;1H
